US07459562B2
B) N-(4-Methoxybenzyl)-6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-amine
A mixture of N-(4-methoxybenzyl)-6-chloropyrimidin-4-amine (2.3 g, 9.2 mmol), 2-fluoro-4-nitrophenol (1.45 g, 9.2 mmol), DIPEA (15 mL), and 2-methoxyethyl ether (75 mL) was heated at 160° C. in a sealed pressure bottle for 50 h. The mixture was cooled, poured onto crushed ice (200 g), treated with EtOAc (200 mL). After vigorously stirring for 10 min, the insoluble material was filtered off. The EtOAc phase was washed with saturated aq. Na2CO3 solution (100 mL), brine (3×100 mL), dried (MgSO4) and concentrated in vacuo. The gummy solid obtained was triturated with isopropyl ether to give the title compound (1.75 g, 76%) as a brown solid. 1H NMR (DMSO-d6) δ 8.32 (dd, 1H, J=10.2, 2.0 Hz), 8.15 (d, 2H, J=9.2 Hz), 8.05 (br s, 1H), 7.61 (dd, 1H, J=8.4, 8.4 Hz), 7.26 (d, 2H, J=8.5 Hz), 6.91 (d, 2H, J=8.5 Hz), 6.14 (br s, 1H), 4.48 (br s, 2H), 3.74 (s, 3H).

reactant | N-(4-methoxybenzyl)-6-chloropyrimidin-4-amine | 9.2 mmol, 2.3 g | COC1=CC=C(CNC2=NC=NC(=C2)Cl)C=C1 | C12H12ClN3O
reactant | 2-fluoro-4-nitrophenol | 9.2 mmol, 1.45 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | DIPEA | 15 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyethyl ether | 75 mL | COCCOCCOC | C6H14O3
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | N-(4-Methoxybenzyl)-6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-amine | 1.75 g, 76% | COC1=CC=C(CNC2=NC=NC(=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])F)C=C1 | C18H15FN4O4
